US09370515B2
Preparation of 3-(5,6-dimethoxy-1H-indol-2-yl)-N-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazin-6-amine
To a solution of 6-chloro-3-(5,6-dimethoxy-1-tosyl-1H-indol-2-yl)imidazo[1,2-b]pyridazine (68 mg, 0.141 mmol, 1.0 equiv), xantphos (16 mg, 0.0282 mmol, 0.2 equiv), palladium acetate (3 mg, 0.0141 mmol, 0.1 equiv), and potassium carbonate (389 mg, 2.82 mmol, 20 equiv) in dioxane (5.0 mL) was added 3,4-dimethoxyaniline (24 mg, 0.155 mmol, 1.1 equiv) and heated to 110° C. for 2 h. Purification by column chromatography using 2% methanol in dichloromethane elution gave 20 mg of the yellow solid.

reactant | 6-chloro-3-(5,6-dimethoxy-1-tosyl-1H-indol-2-yl)imidazo[1,2-b]pyridazine | 0.141 mmol, 68 mg, 1.0 equiv | ClC=1C=CC=2N(N1)C(=CN2)C=2N(C1=CC(=C(C=C1C2)OC)OC)S(=O)(=O)C2=CC=C(C)C=C2 | C23H19ClN4O4S
reactant | xantphos | 0.0282 mmol, 16 mg, 0.2 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium carbonate | 2.82 mmol, 389 mg, 20 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dimethoxyaniline | 0.155 mmol, 24 mg, 1.1 equiv | COC=1C=C(N)C=CC1OC | C8H11NO2
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.0141 mmol, 3 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(5,6-dimethoxy-1H-indol-2-yl)-N-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazin-6-amine | 20 mg | COC=1C=C2C=C(NC2=CC1OC)C1=CN=C2N1N=C(C=C2)NC2=CC(=C(C=C2)OC)OC | C24H23N5O4
